US05686445
6,7-Dihydro-2-methyl-7-(4-nitrobenzoyl)-5H-pyrimido[5,4-d][1]benzazepine
To a stirred solution of 0.233 g of acetamidine hydrochloride in 36 ml of methyl alcohol under argon is added 0.133 g of NaOCH3. After 5 minutes, 0.600 g of 4-[(dimethylamino)methylene]-1,2,3,4-tetrahydro-1-(4-nitrobenzoyl)-5H-1-benzazepin-5-one is added and stirring continued for 18 hours. The volatiles are evaporated to a residue which is dissolved in ethyl acetate and passed through a pad of silica gel. The filtrate is evaporated in vacuo to give 590 mg of the desired product as tan crystals, m.p. 211°-212° C. HR FABMS: Exact mass (M+H): 361.1295.

reactant | acetamidine hydrochloride | 0.233 g | Cl.C(C)(=N)N
reactant | NaOCH3 | 0.133 g | O([Na])C
reactant | 4-[(dimethylamino)methylene]-1,2,3,4-tetrahydro-1-(4-nitrobenzoyl)-5H-1-benzazepin-5-one | 0.600 g | CN(C)C=C1CCN(C2=C(C1=O)C=CC=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O | C20H19N3O4
solvent | methyl alcohol | 36 ml | CO | CH4O
product | 6,7-Dihydro-2-methyl-7-(4-nitrobenzoyl)-5H-pyrimido[5,4-d][1]benzazepine | 590 mg | CC=1N=CC=2CCN(C3=C(C2N1)C=CC=C3)C(C3=CC=C(C=C3)[N+](=O)[O-])=O | C20H16N4O3
